US07550471B2
Preparation of ethyl 2-cyclopentyl-3-oxobutanoate
A mixture of ethyl 3-oxobutanoate (0.5 mol), cyclopentyl bromide (0.5 mol) and sodium ethoxide (0.5 mol) in ethanol (100 ml) was heated under reflux for 15 hours. The reaction mixture was cooled to about 20-25° C., and 71 g of the title compound were then isolated by distillation (96-100° C., 0.25 mbar).

reactant | ethyl 3-oxobutanoate | 0.5 mol | O=C(CC(=O)OCC)C | C6H10O3
reactant | cyclopentyl bromide | 0.5 mol | C1(CCCC1)Br | C5H9Br
reactant | sodium ethoxide | 0.5 mol | [O-]CC.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-cyclopentyl-3-oxobutanoate | 71 g | C1(CCCC1)C(C(=O)OCC)C(C)=O | C11H18O3
